US05068355
To a solution of 2,5-dithienylpyrrole (130 mg, 0.56 mmol) in 2.5 mL of anhydrous tetrahydrofuran cooled to -78° C. was added N-bromosuccinimide (99.68 mg, 0.56 mmol). After addition was complete the cooling bath was removed and the reaction mixture was allowed to stand in a -20° C. freezer for 4 hours, during which the solution became a brown color. The reaction mixture was concentrated under reduced pressure, carbon tetrachloride was added to precipitate the succinimide, and this mixture was filtered. The filter cake was washed with additional chloroform, the combined filtrates were concentrated, and the resulting oil was chromatographed on silica gel (50 g). Elution with hexane-ethyl acetate, 4:1, furnished 81 mg (46%) of 3-bromo-2,5-dithienylpyrrole.

reactant | 2,5-dithienylpyrrole | 0.56 mmol, 130 mg | S1C(=CC=C1)C=1NC(=CC1)C=1SC=CC1 | C12H9NS2
reactant | N-bromosuccinimide | 0.56 mmol, 99.68 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | 3-bromo-2,5-dithienylpyrrole | 81 mg, 46% | BrC1=C(NC(=C1)C=1SC=CC1)C=1SC=CC1 | C12H8BrNS2
